US08097628B2
To a solution of 4-[(1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-(hydroxymethyl)ethyl]-6-(methyloxy)pyrido[2,3-b]pyrazin-3(4H)-one (1 g, 2.74 mmol) in CHCl3 (50 mL) was added Et3N (0.953 mL, 6.84 mmol) followed by a solution of methanesulfonic anhydride (0.953 g, 5.47 mmol) in CHCl3 (50 mL). The reaction mixture was stirred at reflux temperature for 5 h. The crude of reaction was diluted with water, washed with NaCl, dried (MgSO4), filtered, and concentrated. Purification by flash chromatography using a 40 g silica gel cartridge, and mixtures of DCM and MeOH as eluent afforded (2S)-2-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione (0.806 g, 88%) as a tan solid.

reactant | 4-[(1S)-2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-1-(hydroxymethyl)ethyl]-6-(methyloxy)pyrido[2,3-b]pyrazin-3(4H)-one | 2.74 mmol, 1 g | CC(C)(C)[Si](OC[C@H](CO)N1C2=C(N=CC1=O)C=CC(=N2)OC)(C)C | C17H27N3O4Si
reactant | Et3N | 6.84 mmol, 0.953 mL | CCN(CC)CC | C6H15N
reactant | methanesulfonic anhydride | 5.47 mmol, 0.953 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | (2S)-2-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione | 0.806 g, 88% | CC(C)(C)[Si](OC[C@@H]1CN2C(C=CC=3N=CC(N1C23)=O)=O)(C)C | C16H23N3O3Si
